US07855292B2
B. 2-(3,4-Dichloro-phenyl)-propylamine hydrochloride
2-(3,4-Dichloro-phenyl)-propionitrile (5.0 g, 25.0 mmol) was dissolved in THF (80 mL). BH3.THF (1 M in THF, 27.5 mL, 27.5 mmol) was added and the mixture was stirred overnight at rt. EtOH (10 mL) was added, the mixture was stirred for 20 min, and HCl in Et2O (2 M, 12.5 mL) was added. After stirring for 1 h, water was added, causing precipitation of the product. The product was collected by suction filtration and dried (4.2 g, 70%). MS (ESI+): mass calcd. for C9H11Cl2N, 204.1; m/z found, 205 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.45-7.42 (m, 2H), 7.17-7.15 (m, 1H), 3.05-3.02 (m, 2H), 2.98-2.96 (m, 1H), 1.24 (d, J=6.5, 3H).

reactant | 2-(3,4-Dichloro-phenyl)-propionitrile | 25.0 mmol, 5.0 g | ClC=1C=C(C=CC1Cl)C(C#N)C | C9H7Cl2N
reactant | BH3.THF | 27.5 mmol, 1 M, 27.5 mL | B.C1CCOC1
reactant | EtOH | 10 mL | CCO | C2H6O
reactant | HCl | Cl | ClH
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | Et2O | 2 M, 12.5 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-(3,4-Dichloro-phenyl)-propylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C(CN)C | InChI=1S/C9H11Cl2N.ClH/c1-6(5-12)7-2-3-8(10)9(11)4-7;/h2-4,6H,5,12H2,1H3;1H
